US04861885
EXAMPLE 14: Preparation of allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-benzylamide
9.6 g of methyl allylbicyclo[2.2.1]hept-5-ene-2-carboxylate are mixed with 30 ml of benzylamine and 1 g of ammonium chloride, and the mixture is heated for 3 hours under reflux. After cooling, 100 ml of methylene chloride are added, and the reaction mixture is washed with 1N HCl, aqueous soda solution and saturated sodium chloride solution. The organic phase is dried and filtered, and the filtrate is concentrated, affording 3.8 g (73.4% of theory) of a red liquid resin. For the purpose of characterisation, a sample is distilled in a bomb tube. The distillate is a pale yellow oil; η25 =310 mPas.

reactant | methyl allylbicyclo[2.2.1]hept-5-ene-2-carboxylate | 9.6 g | C(C=C)C12C(CC(C=C1)C2)C(=O)OC | C12H16O2
reactant | benzylamine | 30 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-benzylamide | C(C1=CC=CC=C1)NC(=O)C1C2(C=CC(C1)C2)CC=C | C18H21NO
